US07662825B2
N-{2-[3-Chloro-5-(2,3-dichlorobenzenesulphonylamino)-6-methoxy-2-pyrazinylamino]ethyl}acetamide
2,3-Dichloro-N-(5,6-dichloro-3-methoxy-2-pyrazinyl)-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulphonamide (Example 66 part a) (0.26 g) was dissolved in acetonitrile (1.0 mL) and N-acetylethylenediamine (0.055 mL) and triethylamine (0.19 mL) added. After 48 h, the reaction mixture was concentrated and chromatography on silica gel eluting with ethyl acetate gave the title compound protected with the SEM group, as an oil (0.13 g). The oil was dissolved in dichloromethane (2.0 mL) and boron trifluoride etherate (0.14ml) added. After 2 h, ethyl acetate (20 mL) was added and the mixture washed with 5% aqueous citric acid (5 mL), dried (MgSO4) and evaporated. Chromatography on silica gel eluting with ethyl acetate gave the title compound as a solid (0.031 g).

reactant | 2,3-Dichloro-N-(5,6-dichloro-3-methoxy-2-pyrazinyl)-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)N(COCC[Si](C)(C)C)C1=NC(=C(N=C1OC)Cl)Cl | C17H21Cl4N3O4SSi
reactant | N-acetylethylenediamine | 0.055 mL | C(C)(=O)NCCN | C4H10N2O
reactant | triethylamine | 0.19 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | N-{2-[3-Chloro-5-(2,3-dichlorobenzenesulphonylamino)-6-methoxy-2-pyrazinylamino]ethyl}acetamide | ClC=1C(=NC(=C(N1)NS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)OC)NCCNC(C)=O | C15H16Cl3N5O4S
